US06747047B2
Step A: Preparation of 3-Trifluoromethyl-2-[3-(trifluoromethyl)-1H-pyrazol-1-yl]pyridine
A mixture of 2-chloro-3-trifluoromethylpyridine (3.62 g., 21 mmol), 3-trifluoromethylpyrazole (2.7 g., 20 mmol ), and potassium carbonate (6.0 g., 43 mmol) were heated at 100° C. for 18 h. The cooled reaction mixture was added to ice/water (100 mL). The mixture was extracted twice with ether (100 mL) and the combined ether extracts were washed twice with water (100 mL). The organic layer was dried with magnesium sulfate and concentrated to an oil. Chromatography on silica gel with hexanes:ethyl acetate 8:1 to 4:1 as eluent gave the title compound (3.5 g) as an oil. 1H NMR (CDCl3) δ 6.75 (m,1H), 7.5 (m,1H), 8.2 (m,2H), 8.7 (m,1H).

reactant | 2-chloro-3-trifluoromethylpyridine | 21 mmol, 3.62 g | ClC1=NC=CC=C1C(F)(F)F | C6H3ClF3N
reactant | 3-trifluoromethylpyrazole | 20 mmol, 2.7 g | FC(C1=NNC=C1)(F)F | C4H3F3N2
reactant | potassium carbonate | 43 mmol, 6.0 g | C([O-])([O-])=O.[K+].[K+]
product | 3-Trifluoromethyl-2-[3-(trifluoromethyl)-1H-pyrazol-1-yl]pyridine | 3.5 g | FC(C=1C(=NC=CC1)N1N=C(C=C1)C(F)(F)F)(F)F | C10H5F6N3
